Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Terfenadine / Diovan / Lipitor / Flonase / lisinopril
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
left heart catheterization on ___

 
History of Present Illness:
Mr. ___ is a ___ with PMH of MI in ___ s/p two overlapping 
DES to LAD and a BMS to the RCA, HTN, HLD, and chronic 
prostatitis who presented to the ED with exertional chest pain

The patient states that yesterday evening he developed central 
chest pain worsened by exertion, which he thought was due to 
acid reflux. He took several Tums without improvement, however 
decided to wait to see if it resolved. Overnight, he says his 
chest pain was worse if he laid flat but denied any SOB. This 
morning, he developed worsened pain with walking which radiated 
down left arm, so he decided to present to the ED for a cardiac 
evaluation. 

In the ED, he was found to have 1mm STE in III with STD in I and 
aVL. A troponin was elevated to 0.13 and CK-MB of 32, so 
cardiology was consulted. They felt that he would benefit from a 
full dose ASA, aheparin gtt, and a coronary angiogram in the AM 
so he was admitted to ___ for further management.

In the ED, initial vitals were:  
97.8 66 146/91 19 100% RA 

Labs notable for: Trop 0.13, CK-MB 32
WBC 11.4, potassium 3.3, Cr 0.9

EKG: sinus bradycardia, rate 54, NA/NI, 1 mm STE in III w/ 
pathologic Q-wave, 1 mm STD in I, aVL, PAC

CXR: no abnormality

He was given:
___ 18:47 PO Aluminum-Magnesium Hydrox.-Simethicone 30 mL 
___  
___ 18:47 PO Lidocaine Viscous 2% 10 mL ___  
___ 18:47 PO Aspirin 324 mg ___  
___ 20:29 IV Heparin 4000 UNIT ___  
___ 20:29 IV Heparin  ___ Started 1000  

On the floor, he reports that his chest pain has completely 
resolved. He denies any shortness of breath, orthopnea, PND, leg 
swelling, palpitations. He denies any other symptoms.
 
Review of systems:  
(+) Per HPI  
(-) 10-point ROS negative except as per HPI
 
 
Past Medical History:
1.  Coronary artery disease with MI in ___ with BMS placement
2.  Hypertension.
3.  Hyperlipidemia.
4.  B12 deficiency.
5.  Family history of BRCA I mutation.
6.  Peripheral neuropathy.
7.  Nephrolithiasis with calcium oxalate stones.
8.  Squamous cell skin cancer on the forehead, chest
9.  Chronic prostatitis

 
Social History:
___
Family History:
Family Hx: 2 cousins died of MI age ___ and ___. grandfather died 
of MI at ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: 98.3 136/81 49 18 96% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated 
CV: Bradycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Moving all extremities spontaneously and with purpose 
 
DISCHARGE PHYSICAL EXAM
Vital Signs: 98.2 ___ 96-100% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
CV: Bradycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Moving all extremities spontaneously and with purpose 

 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:40PM BLOOD WBC-11.4* RBC-5.55 Hgb-17.0 Hct-48.3 
MCV-87 MCH-30.6 MCHC-35.2 RDW-12.6 RDWSD-40.0 Plt ___
___ 06:40PM BLOOD Neuts-76.4* Lymphs-15.7* Monos-6.8 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.72* AbsLymp-1.79 
AbsMono-0.78 AbsEos-0.04 AbsBaso-0.04
___ 08:16PM BLOOD ___ PTT-33.9 ___
___ 06:40PM BLOOD Glucose-106* UreaN-14 Creat-0.9 Na-141 
K-3.3 Cl-97 HCO3-29 AnGap-18
___ 04:03AM BLOOD CK(CPK)-362*
___ 06:40PM BLOOD CK-MB-32*
___ 06:40PM BLOOD cTropnT-0.13*
___ 06:40PM BLOOD Calcium-10.7* Phos-4.4 Mg-2.2

IMAGING
--------
ECHO ___: The left atrium is normal in size. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with very mild 
basal inferior and inferolateral hypokinesis. The remaining 
segments contract normally. Quantitative (biplane) LVEF = 54%. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. Interventricular septal 
motion is normal. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no 
pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. 

Compared with the prior study (images reviewed) of ___, 
there is mild regional LV dysfunction.  

CARDIAC CATHETERIZATION ___: 
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of angiographic CAD.
* Left Anterior Descending
The LAD has mild irregularities.
* Circumflex
The Circumflex is a small vessel without significant stenosis.
* Right Coronary Artery
There is a 75% stenosis in the Proximal RCA. The lesion has a 
TIMI flow of 3 and has mild calcification
noted. This lesion is further described as tubular. An 
intervention was performed on the Proximal RCA
with a final stenosis of 0%. There were no lesion complications.
There is a 90% stenosis in the Distal RCA. The lesion has a TIMI 
flow of 3 and has mild calcification
noted. This lesion is further described as diffusely diseased. 
An intervention was performed on the Distal
RCA with a final stenosis of 0%. There were no lesion 
complications.

CXR ___: No acute cardiopulmonary abnormality.

DISCHARGE/INTERVAL LABS
___ 07:10AM BLOOD WBC-8.7 RBC-5.19 Hgb-15.8 Hct-45.7 MCV-88 
MCH-30.4 MCHC-34.6 RDW-12.5 RDWSD-40.4 Plt ___
___ 04:03AM BLOOD ___ PTT-50.2* ___
___ 07:10AM BLOOD Glucose-129* UreaN-14 Creat-1.0 Na-145 
K-4.3 Cl-106 HCO3-24 AnGap-19
___ 04:03AM BLOOD CK(CPK)-362*
___ 07:10AM BLOOD CK-MB-19* cTropnT-0.59*
___ 07:10AM BLOOD Calcium-9.3 Phos-2.2* Mg-2.___ y/o M with PMHx of MI in ___ s/p two overlapping DES to LAD 
and a BMS to the RCA, HTN, BPH, HLD, and chronic prostatitis who 
presented for STEMI now s/p 3 DES to RCA

# STEMI: Patient presented with chest pain, intermittent x ___ 
days, not relieved by over-the-counter antacids. EKGs on arrival 
showed new ST elevations with troponin elevation to 0.59; MB 
peaked at 32. Since arrival to the ED, the patient has been 
chest pain-free. He was started on a heparin gtt initially. 
Catheterization on ___ showed 70-90% stenosis along proximal 
and distal RCA and 3 DES were placed. Patient has been started 
on Ticagrelor. He has been continued on Aspirin, metoprolol. 
Rosuvastatin was increased to 40 mg daily. 

# Hypertension: Continue amlodipine 10 mg daily and metoprolol 
succinate 12.5 mg daily

# Hyperlipidemia: Increased rosuvastatin to 40 mg daily as above

# Chronic prostatitis: Continue tamsulosin 0.4 mg QHS

***Transitional issues***: 
- patient will need a repeat ECHO in 3 months to assess LV 
function. 
- has not been on ACEI due to hypotension, may reconsider as 
warranted. 
- has been bradycardic intermittently during his hospital stay 
(HR 48-58) but has remained asymptomatic, advise close follow-up
- Rosuvastatin increased to 40 mg
- Ticagrelor added
- monitor for myalgias while on Rosuvastatin. Has experienced 
myalgias in the past on Lipitor
#CODE STATUS: FULL
#EMERGENCY CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Viagra (sildenafil) ___ mg oral prn erectile dysfunction 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*2 
2.  Rosuvastatin Calcium 40 mg PO DAILY 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Metoprolol Succinate XL 12.5 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Viagra (sildenafil) ___ mg oral PRN ERECTILE DYSFUNCTION 
erectile dysfunction  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
STEMI 

Secondary diagnoses: 
CAD 
HTN 
HLD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because of chest pain and 
found to have a heart attack. You had a heart catheterization on 
___ and two additional stents were placed in one of your 
arteries. 

Please take your medications as prescribed and follow up with 
your doctors as listed below. 

MEDICATIONS ADDED
-------------------
TICAGRELOR

MEDICATION DOSING INCREASED
ROSUVASTATIN 

It was a pleasure taking care of you and we wish you the best! 

Your ___ Team
 
Followup Instructions:
___